US07067517B2
Methyl-phenyl-carbamic acid 4-methanesulfonyl-phenyl ester
The title product was prepared from 4-methylsulfonylphenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (50%, white solid). HPLC-MS: m/z=306.1 (M+1); Rt: 3.22 min.

reactant | 4-methylsulfonylphenol | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-methanesulfonyl-phenyl ester | CS(=O)(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO4S
